US06627629B2
Part E. Preparation of (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid ethyl ester
A solution of crude (R)-5-(1-Phenyl-ethylamino)-3,6-dihydro-2H-pyran-4-carboxylic acid ethyl ester (4.53 g, ca. 16.5 mmol) was dissolved in trifluoroacetic acid (45 mL) and treated with triethylsilane (7.9 mL, 49.4 mmol). The mixture was stirred for 17 h and then concentrated. The residue was dissolved in water and adjusted to pH 10 with 50% sodium hydroxide. The mixture was extracted with dichloromethane, and the combined organic phases were dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (40% diethyl ether/petroleum ether) to provide the product as a colorless oil (1.63 g, 36%). 1H NMR (300 mHz, CDCl3) δ7.22 (m, 4H), 7.16 (m, 1H), 4.14 (q, J=7.3 Hz, 2H), 3.77 (m, 2H), 3.60 (q, J=7.3 Hz, 1H), 3.23 (m, 1H), 2.83 (m, 2H), 2.31 (m, 1H), 1.77 (m, 2H), 1.24 (m, 6H), ESI MS: (M+H)+=278.1 (100%).

reactant | (R)-5-(1-Phenyl-ethylamino)-3,6-dihydro-2H-pyran-4-carboxylic acid ethyl ester | ca. 16.5 mmol, 4.53 g | C(C)OC(=O)C=1CCOCC1N[C@H](C)C1=CC=CC=C1 | C16H21NO3
reactant | triethylsilane | 49.4 mmol, 7.9 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 45 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid ethyl ester | 1.63 g, 36% | C(C)OC(=O)[C@H]1[C@@H](COCC1)N[C@H](C)C1=CC=CC=C1 | C16H23NO3
